US09399623B2
Step 1. 6-Chloro-2-(3-oxo-cyclopent-1-enyl)-quinoline-5-carboxylic acid (1-hydroxy-3-methylcyclo hexyl methyl)-amide
The title compound was synthesized according to the procedure described in example 125 using 2,6-dichloro-quinoline-5-carboxylic acid (1-hydroxy-3-methyl-cyclohexylmethyl)-amide, cesium carbonate, 3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-cyclopent-2-enone and [1,1-bis(diphenylphosphino)ferrocene]dichloropalladium(II). 1H NMR (400 MHz, DMSO-d6) δ ppm: 8.70 (t, J=6.04 Hz, 1H), 8.28-8.22 (m, 2H), 8.12 (d, J=9.21 Hz, 1H), 7.86 (d, J=9.03 Hz, 1H), 7.13 (t, J=1.64 Hz, 1H), 4.21 (s, 1H), 3.22-3.20 (m, 2H), 2.56-2.54 (m, 2H), 1.73 (t, J=3.41 Hz, 1H), 1.62-1.56 (m, 4H), 1.48-1.45 (m, 1H), 1.32-1.25 (m, 1H), 1.06-1.00 (m, 1H), 0.84 (d, J=6.63 Hz, 3H), 0.77-0.74 (m, 1H). m/z: 413.2 [M+H]+

reactant | 2,6-dichloro-quinoline-5-carboxylic acid (1-hydroxy-3-methyl-cyclohexylmethyl)-amide | OC1(CC(CCC1)C)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)Cl | C18H20Cl2N2O2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-cyclopent-2-enone | CC1(OB(OC1(C)C)C1=CC(CC1)=O)C | C11H17BO3
catalyst | [1,1-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.Cl[Pd]Cl.[Fe]
product | 6-Chloro-2-(3-oxo-cyclopent-1-enyl)-quinoline-5-carboxylic acid (1-hydroxy-3-methylcyclo hexyl methyl)-amide | OC1(CC(CCC1)C)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C1=CC(CC1)=O | C23H25ClN2O3
